data/oMe_Silver.jsonl
{"reaction_id": "NR-103_1-c2ccccc2_2-CC_3-N(C)C_4-C(C)CC_5-Br","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(c2ccccc2)c(CC)c(N(C)C)c(C(C)CC)c1Br","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(c2ccccc2)c(CC)c(N(C)C)c(C(C)CC)c1Br"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(c2ccccc2)c(CC)c(N(C)C)c(C(C)CC)c1Br","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(c2ccccc2)c(CC)c(N(C)C)c(C(C)CC)c1Br","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
{"reaction_id": "NR-304_1-c1ccc(OC)cc1","level": "medium","name": "Takai Olefination","reactants_smiles": ["O=C([H])(c1ccc(OC)cc1)","C(I)(I)I","Cl[Cr]Cl"],"products_smiles": ["c1ccc(OC)cc1/C=C/I"],"conditions": "CrCl2","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC(I)[Cr](Cl)Cl","step_weight": 0,"rationale": "Cr(II) undergoes oxidative addition into a C–I bond due to iodine’s excellent leaving group ability and the high polarizability of the C–I bond, forming a reactive organochromium intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC([Cr](Cl)Cl)[Cr](Cl)Cl","step_weight": 0,"rationale": "A second oxidative addition occurs because the remaining C–I bond is similarly activated, and Cr(II) readily inserts, producing a gem-dichromium species with enhanced nucleophilicity at the methylene carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C(O[Cr](Cl)Cl)C(I)([Cr](Cl)Cl)","step_weight": 0,"rationale": "The nucleophilic iodomethyl-dichromium attacks the electrophilic aldehyde carbonyl, facilitated by polarization of the C=O bond and stabilization of the alkoxide by coordination to chromium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1/C=C/I","step_weight": 0,"rationale": "Syn-elimination is favored due to the chelation geometry imposed by chromium, leading to selective E-alkenyl iodide formation driven by steric minimization between substituents."}],"description": "In the Takai olefination, CrCl2 activates iodoform through successive oxidative additions, generating a nucleophilic iodomethyl-dichromium species. This species adds to the aldehyde, and stereoselective elimination yields the E-vinyl iodide, driven by chromium coordination and thermodynamic product stability."}
